US04031107
Also, 6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine was prepared by reduction of 1-hydroxy-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine with thionyl bromide.

reactant | 1-hydroxy-6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine | ON1C(=NC2=NC=C(C=C21)Cl)C(F)(F)F | C7H3ClF3N3O
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
product | 6-chloro-2-(trifluoromethyl)-1H-imidazo [4,5-b] pyridine | ClC=1C=C2C(=NC1)N=C(N2)C(F)(F)F | C7H3ClF3N3
